US08044213B2
A mixture of 0.4154 g (0.861 mmole) of 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide, 16 mL of acetonitrile and 8 mL of 1M hydrochloric acid was heated at 60 degrees for 1.5 hours. The cooled mixture diluted with 50 mL of water. The precipitate was collected by filtration, washed with water and dried to give 0.3198 g of 2-(5-formyl-2-nitro-phenylamino)-4-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (VI.48b) as an orange solid.

reactant | 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.861 mmole, 0.4154 g | COC(C=1C=CC(=C(C1)NC=1SC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-])OC | C20H17F3N4O5S
reactant | acetonitrile | 16 mL | C(C)#N | C2H3N
reactant | hydrochloric acid | 1M, 8 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 2-(5-formyl-2-nitro-phenylamino)-4-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.3198 g | C(=O)C=1C=CC(=C(C1)NC=1SC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-] | C18H11F3N4O4S
